US08258144B2
A solution of tert-butyl (1-(2-(1H-indazol-6-ylamino)-5-fluoropyrimidin-4-yl)piperidin-2-yl)methylcarbamate (41 mg, 0.093 mmol) in TFA (4 mL) was stirred at room temperature for 60 min. TFA was removed in vacuo. The residue was purified by HPLC to give N-(4-(2-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-yl)-1H-indazol-6-amine (25 mg) MS 342.3 (M+H); UV 201.8, 246.8, 278.8 nm.

reactant | tert-butyl (1-(2-(1H-indazol-6-ylamino)-5-fluoropyrimidin-4-yl)piperidin-2-yl)methylcarbamate | 0.093 mmol, 41 mg | N1N=CC2=CC=C(C=C12)NC1=NC=C(C(=N1)N1C(CCCC1)CNC(OC(C)(C)C)=O)F | C22H28FN7O2
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(4-(2-(aminomethyl)piperidin-1-yl)-5-fluoropyrimidin-2-yl)-1H-indazol-6-amine | 25 mg | NCC1N(CCCC1)C1=NC(=NC=C1F)NC1=CC=C2C=NNC2=C1 | C17H20FN7
